US04410730
To a solution of boron trichloride (100 mg) in dry benzene (5 ml), a solution of p-chloromethylaniline (100 mg) in dry benzene (2 ml) is added with cold water cooling (7°-10° C.), and the resultant mixture is refluxed for 2 hours. Then, a solution of o-chlorobenzaldehyde (99 mg) and tri-n-butylamine (131 mg) in dry benzene (2 ml) is added thereto with cold water cooling, and the mixture is stirred at room temperature for 1 hour. The reaction mixture is mixed with ice pieces and shaken with ether. The ethereal layer is washed with aqueous sodium carbonate and a saturated brine in that order, dried over potassium carbonate, and evaporated under reduced pressure. The residue is chromatographed on a column of silica gel, and the product is recrystallized from chloroform-petroleum ether to give 2-methylamino-5,2'-dichlorobenzhydrol (174 mg) as crystals melting at 106° to 108° C. The yield is 87.4%.

reactant | boron trichloride | 100 mg | B(Cl)(Cl)Cl | BCl3
reactant | p-chloromethylaniline | 100 mg | ClCC1=CC=C(N)C=C1 | C7H8ClN
reactant | o-chlorobenzaldehyde | 99 mg | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | tri-n-butylamine | 131 mg | C(CCC)N(CCCC)CCCC | C12H27N
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-methylamino-5,2'-dichlorobenzhydrol | 174 mg, yield is 87.4% | CNC1=C(C(C2=C(C=CC=C2)Cl)O)C=C(C=C1)Cl | C14H13Cl2NO
